US04059433
A mixture of 66.1 g of ethyl 3-amino-3-ethoxyacrylate and 300 ml of diethyl ether was stirred in a 500 ml flask during the addition of 60.5 g of phenoxycarbonylisothiocyanate. A solution of 38.3 ml of 33% hydrogen peroxide (11.5 g of active H2O2) in 300 ml of ethanol was added to the reaction mixture at a rate sufficient to maintain uniform reflux. The reaction mixture was allowed to stand at ambient temperature over a weekend. The precipitate was collected by filtration and dried. The filter cake was recrystallized from 1400 ml of 1:1 acetonitrile:water to yield 44.1 g of phenyl (3-ethoxy-4-ethoxycarbonyl-5-isothiazolyl)carbamate, mp 130° (decomposes). The ir spectrum was consistent with the assigned structure.

reactant | ethyl 3-amino-3-ethoxyacrylate | 66.1 g | NC(=CC(=O)OCC)OCC | C7H13NO3
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
reactant | phenoxycarbonylisothiocyanate | 60.5 g | O(C1=CC=CC=C1)C(=O)N=C=S | C8H5NO2S
reactant | hydrogen peroxide | 38.3 ml, 11.5 g | OO | H2O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | phenyl (3-ethoxy-4-ethoxycarbonyl-5-isothiazolyl)carbamate | 44.1 g | C(C)OC1=NSC(=C1C(=O)OCC)NC(OC1=CC=CC=C1)=O | C15H16N2O5S
